US06156801
To a solution of 4-chloro-3-nitroaniline (3.45 g, 30 mmol) in chloroform (100 ml) was added butyric anhydride (5 ml), followed by stirring at room temperature for 2 hours. After allowing to stand overnight, a saturated aqueous sodium carbonate solution was added, followed by stirring for 30 minutes. The organic layer was separated and dried, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography [eluent; hexane - chloroform (1:1)] to give N-(4-chloro-3-nitrophenyl)butyramide (4.66 g).

reactant | 4-chloro-3-nitroaniline | 30 mmol, 3.45 g | ClC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | butyric anhydride | 5 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-chloro-3-nitrophenyl)butyramide | 4.66 g | ClC1=C(C=C(C=C1)NC(CCC)=O)[N+](=O)[O-] | C10H11ClN2O3
